US04000275
6-Methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)-one is prepared with 8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one and methyl bromide.

reactant | 8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)one | ClC1=CC2=C(C=C1Cl)N1C(=NC3=CC=CC=C3C1=O)N2 | C14H7Cl2N3O
reactant | methyl bromide | CBr | CH3Br
product | 6-Methyl-8,9-dichlorobenzimidazo[2,1-b]quinazolin-12(6H)-one | CN1C2=C(C=C(C(=C2)Cl)Cl)N2C1=NC1=CC=CC=C1C2=O | C15H9Cl2N3O
